US05300618
Preparation of 1,3-Bis [(2,4-di-hydroxyphenyl)-alpha-methyl ethyl] benzene
Into a 2-liter kettle equipped with stirrer, thermometer, reflux condenser and an addition funnel, 264.0 grams of resorcinol (2.4 moles) 12.0 grams of oxalic acid and 900 ml of heptane were placed. The contents of this flask were heated to about 75° C. While maintaining the temperature of the resorcinolic slurry between about 75°-85° C., 126.4 grams of 1,3-diisopropenyl benzene (0.8 moles) was added dropwise for about 2 hours. After the completion of the above addition, the temperature of the reaction mixture was raised to and maintained at about 95° C. for about an additional 2.0 hours, while the reaction mixture was continuously stirred. The reaction mixture was then cooled and the separated heptane layer was removed by decantation. Finally the solidified mass was treated with excess dichloromethane to separate the reaction product. The white precipitate that separated from the solution was filtered, washed with dichloromethane and then washed with distilled water. After air drying at about room temperature the precipitate weighed 215 grams. Structural characterization by IR/NMR analysis of the reaction product confirmed the structure of 1,3-bis[(2,4-di-hydroxyphenyl)-alpha-methyl ethyl] benzene.

reactant | resorcinol | 2.4 moles, 264.0 grams | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | 1,3-diisopropenyl benzene | 0.8 moles, 126.4 grams | C(=C)(C)C1=CC(=CC=C1)C(=C)C | C12H14
solvent | heptane | 900 ml | CCCCCCC | C7H16
product | 1,3-Bis [(2,4-di-hydroxyphenyl)-alpha-methyl ethyl] benzene | OC1=C(C=CC(=C1)O)C(C)(C)C1=CC(=CC=C1)C(C)(C)C1=C(C=C(C=C1)O)O | C24H26O4
